* AO3400A N-Channel MOSFET PSpice Subcircuit
* Based on AO3400A datasheet (Rev 3, Dec 2011)
* VDS=30V, ID=5.7A, RDS(ON)=26.5mOhm @ VGS=10V
.SUBCKT AO3400A D G S
M1 D G S S NMOS W=1.0 L=1.0
RDS D S RTEMP 26.5m
CGS G S 30p
DBODY D S DBD
*
.MODEL NMOS NMOS (LEVEL=3
+VTO=1.0     ; Threshold ~1.05V typical
+UO=400      ; Mobility
+TOX=5.2E-8  ; Gate oxide thickness (from datasheet)
+NSUB=1E16   ; Substrate doping
+ETA=0.1     ; DIBL
+THETA=0.1   ; Mobility degradation
+VMAX=2E5    ; Saturation velocity
+XJ=3E-7     ; Junction depth
+KAPPA=0.5   ; Saturation fitting
+TPG=-1      ; N-type
+RD=0.01     ; Drain resistance
+RS=0.01     ; Source resistance
+CGSO=1E-10  ; Gate-source overlap cap
+CGDO=1E-10  ; Gate-drain overlap cap
+CGBO=0      ; Gate-bulk overlap cap
+NFS=1E11    ; Fast surface state density
+DELTA=0)
*
.MODEL DBD D (IS=1E-12 RS=0.01 CJO=900p VJ=0.6 M=0.3 BV=30 IBV=1E-4 TT=16n N=1.0 FC=0.5)
*
.MODEL RTEMP RES (TC1=1.5E-3 TC2=1E-6)
.ENDS AO3400A
